US08754054B2
Following General Procedure: Method A using (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (50 mg, 0.072 mmol), potassium carbonate (30 mg, 0.22 mmol) and methyl bromoacetate (20 μL, 0.22 mmol), the product was purified by preparative TLC (silica gel, 95:5 dichloromethane/methanol) and semi-preparative HPLC (45:55 acetonitrile/water with 0.05% TFA) to afford (6R,6aS,14aR)-methyl 6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-1-(2-methoxy-2-oxoethoxy)-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate (10 mg, 20%) as a red solid: 1H NMR (500 MHz, CDCl3) δ 14.19 (s, 1H), 8.27 (s, 1H), 6.89 (d, J=9.0 Hz, 1H), 6.86 (s, 1H), 5.88 (s, 1H), 4.96 (d, J=6.6 Hz, 1H), 4.69 (d, J=8.7 Hz, 1H), 4.54 (d, J=15.1 Hz, 1H), 4.43 (d, J=15.1 Hz, 1H), 3.91 (br s, 3H), 3.79 (s, 3H), 3.76-3.67 (m, 3H), 3.73 (s, 3H), 3.64-3.55 (m, 1H), 3.60 (s, 3H), 3.39 (s, 3H), 3.36-3.29 (m, 3H), 3.13 (t, J=9.2 Hz, 1H), 2.60 (br s, 1H), 2.19 (s, 3H), 1.36 (d, J=6.2 Hz, 3H); MS (ESI+) m/z 770 (M+H); HPLC 96.4% (AUC), tR 15.46 min.

reactant | (6R,6aS,14aR)-methyl 1,6,8,14a-tetrahydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 0.072 mmol, 50 mg | OC1=C(C(=CC2=C1[C@@]1(C(C3=CC=4C(C(=CC(C4C(=C3C([C@@]1([C@@H](C2)O)OC)=O)O)=O)N[C@H]2O[C@H]([C@@H]([C@H]([C@H]2OC)O)OC)C)=O)=O)O)C)C(=O)OC | C34H35NO15
reactant | potassium carbonate | 0.22 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl bromoacetate | 0.22 mmol, 20 μL | BrCC(=O)OC | C3H5BrO2
product | (6R,6aS,14aR)-methyl 6,8,14a-trihydroxy-11-((2S,3R,4R,5R,6S)-4-hydroxy-3,5-dimethoxy-6-methyltetrahydro-2H-pyran-2-ylamino)-6a-methoxy-1-(2-methoxy-2-oxoethoxy)-3-methyl-7,9,12,14-tetraoxo-5,6,6a,7,9,12,14,14a-octahydrobenzo[a]tetracene-2-carboxylate | 10 mg, 20% | O[C@@H]1CC2=C([C@@]3(C(C4=CC=5C(C(=CC(C5C(=C4C([C@]13OC)=O)O)=O)N[C@H]1O[C@H]([C@@H]([C@H]([C@H]1OC)O)OC)C)=O)=O)O)C(=C(C(=C2)C)C(=O)OC)OCC(=O)OC | C37H39NO17
